US04448962
A mixture of 1-ethyl-6-bromo-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid 1.65 g, piperazine 2.15 g and pyridine 2 ml was refluxed for 12 hours by heating. The reaction mixture was evaporated under vacuum and dissolved in aqueous acetic acid. The insoluble matters were removed by filtration. The filtrate was neutralized with an aqueous solution of NaOH. The precipitated crystals were collected by filtration and washed with water. The precipitate was recrystallized from a mixed solvent of concentrated hydrochloric acid and ethanol to obtain 1.4 g (67%) of 1-ethyl-6-bromo-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid hydrochloride as colorless needles.

reactant | 1-ethyl-6-bromo-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.65 g | C(C)N1C=C(C(C2=CC(=C(C=C12)Cl)Br)=O)C(=O)O | C12H9BrClNO3
reactant | piperazine | 2.15 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6-bromo-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid hydrochloride | 1.4 g, 67% | Cl.C(C)N1CC(C(C2=CC(=C(C=C12)N1CCNCC1)Br)=O)C(=O)O | InChI=1S/C16H20BrN3O3.ClH/c1-2-19-9-11(16(22)23)15(21)10-7-12(17)14(8-13(10)19)20-5-3-18-4-6-20;/h7-8,11,18H,2-6,9H2,1H3,(H,22,23);1H
